US04332804
A solution of the hydrobromide salt of 1-oxa-4,9-diazaspiro[5.5]undecan-3-one (15 g) and 3-(2-bromoethyl)indole (13.5 g) in 75 ml of dimethylformamide and 20 ml of triethylamine was stirred at 65° C. for 16 hours. Water was added and the mixture was extracted with methylene chloride. The organic layer was extracted with 5% hydrochloric acid and the aqueous layer was made basic with ammonium hydroxide and extracted with methylene chloride. Evaporation left a residue which was chromatographed on silica gel with 10% methanol-methylene chloride to give 8.0 g of 9-[2-(3-indolyl)ethyl-]-1-oxa-4,9-diazaspiro[5.5] undecan-3-one as the free base, mp 48°-50° C. The free base was dissolved in methanol and acidified with methanolic hydrochloric acid. The precipitate was washed with ether to give 7 g of the hydrochloride salt of 9-[2-(3-indolyl)ethyl]-1-oxa-4,9-diazaspiro[5.5]undecan-3-one, mp 272°-275° C. (dec).

reactant | 1-oxa-4,9-diazaspiro[5.5]undecan-3-one | 15 g | O1CC(NCC12CCNCC2)=O | C8H14N2O2
reactant | 3-(2-bromoethyl)indole | 13.5 g | BrCCC1=CNC2=CC=CC=C12 | C10H10BrN
reactant | Water | O | H2O
solvent | dimethylformamide | 75 ml | CN(C=O)C | C3H7NO
solvent | triethylamine | 20 ml | C(C)N(CC)CC | C6H15N
product | 9-[2-(3-indolyl)ethyl-]-1-oxa-4,9-diazaspiro[5.5] undecan-3-one | 8.0 g | N1C=C(C2=CC=CC=C12)CCN1CCC2(CNC(CO2)=O)CC1 | C18H23N3O2
